US07504401B2
To 0.2 g (3-amino-5-bromo-phenyl)-pyridin-3-yl-methanone (0.72 mmol) in 5 mL of methylene chloride was added 0.16 g of 4-nitrophenyl chloroformate (0.79 mmol) and 0.12 mL of pyridine. An additional 10 mL of methylene chloride was added, and the reaction was stirred for 3 hours at room temperature at which time 0.15 mL (0.866 mmol) diisopropylethyl amine and 0.873 mL (1.75 mmol) 2 N dimethylamine in THF were added. The reaction was stirred at ambient temperature overnight, then transferred to a separatory funnel. The methylene chloride phase was washed with saturated sodium bicarbonate, dried over anhydrous sodium sulfate and concentrated. The crude product was chromatographed to give 3-[3-bromo-5-(pyridine-3-carbonyl)-phenyl]-1,1-dimethyl-urea. This material was converted to 3-[3-(1H-Indol-4-yl)-5-(pyridine-3-carbonyl)-phenyl]-1,1-dimethyl-urea as described for Example 75. 1H NMR (400 MHz, CD3OD) δ 8.97 (s, 1H), 8.75 (d, J=3.7 Hz, 1H), 8.25 (td, J=7.9, 1.9 Hz, 1H), 8.09 (t, J=1.9 Hz, 1H), 7.84 (t, J=1.9 Hz, 1H), 7.73 (t, J=1.6 Hz, 1H), 7.58 (dd, J=7.8, 4.9 Hz, 1H), 7.39 (td, J=8.0, 1.0 Hz, 1H), 7.28 (d, J=3.1 Hz, 1H), 7.17 (t, J=7.6 Hz, 1H), 7.12 (dd, J=7.3, 1.1 Hz, 1H), 6.67 (dd, J=3.1, 1.0 Hz, 1H), 3.02 (s, 6H).

reactant | (3-amino-5-bromo-phenyl)-pyridin-3-yl-methanone | 0.72 mmol, 0.2 g | NC=1C=C(C=C(C1)Br)C(=O)C=1C=NC=CC1 | C12H9BrN2O
reactant | 4-nitrophenyl chloroformate | 0.79 mmol, 0.16 g | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | diisopropylethyl amine | 0.866 mmol, 0.15 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | dimethylamine | 1.75 mmol, 2 N, 0.873 mL | CNC | C2H7N
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
solvent | THF | C1CCOC1 | C4H8O
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | pyridine | 0.12 mL | N1=CC=CC=C1 | C5H5N
product | 3-[3-bromo-5-(pyridine-3-carbonyl)-phenyl]-1,1-dimethyl-urea | BrC=1C=C(C=C(C1)C(=O)C=1C=NC=CC1)NC(N(C)C)=O | C15H14BrN3O2
